US08258130B2
To a solution of 2-phenyl-pyrimidine-5-carboxylic acid (300 mg, 1.5 mmol) in DCM (10 mL) is added 1-[3-(dimethylamino)propyl-3-ethylcarbodiimide (316 mg, 1.65 mmol) and N-hydroxybenzotriazole (223 mg, 1.65 mmol) at rt and the mixture is stirred for 10 min. 4-Amino-4H-1,2,4-triazole (252 mg, 3 mmol) is added and the mixture is stirred at rt for 3 days. The resulting precipitate is filtered, washed with DCM and water, and dried in vacuum oven at 40° C. overnight to afford 2-phenyl-pyrimidine-5-carboxylic acid [1,2,4]triazol-4-ylamide (270 mg) as a solid. MS: 267 (M+H); 1H NMR (300 MHz, DMSO): δ=7.59 (m, 3H), 8.50 (d, 2H), 8.84 (s, 2H), 9.36 (s, 2H). IC50=262.5 nM.

reactant | 2-phenyl-pyrimidine-5-carboxylic acid | 1.5 mmol, 300 mg | C1(=CC=CC=C1)C1=NC=C(C=N1)C(=O)O | C11H8N2O2
reactant | 3-(dimethylamino)propyl-3-ethylcarbodiimide | 1.65 mmol, 316 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | N-hydroxybenzotriazole | 1.65 mmol, 223 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-Amino-4H-1,2,4-triazole | 3 mmol, 252 mg | NN1C=NN=C1 | C2H4N4
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-phenyl-pyrimidine-5-carboxylic acid [1,2,4]triazol-4-ylamide | 270 mg | N=1N=CN(C1)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1 | C13H10N6O
